US04698341
(a.l) (±)-4-(2,3-Dichlorophenyl)-1,4,5,6-tetrahydro-2-methyl-5-oxo-1,6-naphthyridine-3-carboxylic acid methyl ester;
(a.m) (±)-4-(2,3-Dichlorophenyl)-1,4,5,6-tetrahydro-2,6-dimethyl-5-oxo-1,6-naphthyridine-3-carboxylic acid methyl ester; mp 290°-291° C. (from methanol); process (b).

reactant | (±)-4-(2,3-Dichlorophenyl)-1,4,5,6-tetrahydro-2,6-dimethyl-5-oxo-1,6-naphthyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC=2C=CN(C(C2C1C1=C(C(=CC=C1)Cl)Cl)=O)C)C | C18H16Cl2N2O3
solvent | methanol | CO | CH4O
product | (±)-4-(2,3-Dichlorophenyl)-1,4,5,6-tetrahydro-2-methyl-5-oxo-1,6-naphthyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC=2C=CNC(C2C1C1=C(C(=CC=C1)Cl)Cl)=O)C | C17H14Cl2N2O3
